US04347388
3,6-Dimethyl-oct-1-yn-3ol (1 c)
128 g (1 mole) of 5-methyl-heptan-2-one are added in the course of 1 hour, with stirring, to 1 liter of a 1.1 molar solution of ethynyl-magnesium chloride in tetrahydrofuran at 10° C. After allowing about a further hour's reaction, the mixture is worked up. To do so, 2 N sulfuric acid is added, whilst cooling with ice, until two clear phases are present. The organic phase is then separated off and washed neutral with water, if necessary, and the tetrahydrofuran is distilled off at 50° C./67 mbar. The residue is subjected to fractional distillation. 143 g of main fraction, boiling at 50°-52° C./0.01 mbar, are obtained; nD25 =1.4411. This corresponds to a yield of 93%. Scent: predominantly floral, woody, herbal, minty with a spicy, slightly animal after-scent.

reactant | 5-methyl-heptan-2-one | 1 mole, 128 g | CC(CCC(C)=O)CC | C8H16O
reactant | ethynyl-magnesium chloride | C(#C)[Mg]Cl
reactant | sulfuric acid | 2 N | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,6-Dimethyl-oct-1-yn-3ol | yield of 93% | CC(C#C)(CCC(CC)C)O | C10H18O
